US08217069B2
Ethyl 5-(tert-butoxycarbonylamino)-6-iodo-4-methylpyridine-2-carboxylate
A mixture of ethyl 5-amino-4-methylpyridine-2-carboxylate (2.58 g), iodine (2.91 g) and sodium periodate (1.22 g) in N,N-dimethylformamide (20 mL) was stirred at 60° C. for 6 days. The reaction mixture was cooled to room temperature. To the reaction mixture was added 1 mol/L aqueous sodium thiosulfate solution, and the resulting mixture was extracted with ethyl acetate twice. The extracts were washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=2/1−1/1) to give ethyl 5-amino-6-iodo-4-methylpyridine-2-carboxylate (2.31 g). To sodium hexamethyldisilazide (1.03 mol/L tetrahydrofuran solution, 10.5 mL) was added a solution of ethyl 5-amino-6-iodo-4-methylpyridine-2-carboxylate (1.51 g) in tetrahydrofuran (9 mL) in a dropwise manner at −10° C., and the mixture was stirred at the same temperature for 10 minutes. To the mixture was added a solution of di(tert-butyl)dicarbonate (1.18 g) in tetrahydrofuran (4 mL) in a dropwise manner, and the mixture was stirred at the same temperature for 30 minutes. To the reaction mixture was added 1 mol/L hydrochloric acid, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=3/1−2/1) to give the title compound (1.11 g).

reactant | sodium hexamethyldisilazide | 1.03 mol/L, 10.5 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Na+]
reactant | ethyl 5-amino-6-iodo-4-methylpyridine-2-carboxylate | 1.51 g | NC=1C(=CC(=NC1I)C(=O)OCC)C | C9H11IN2O2
reactant | di(tert-butyl)dicarbonate | 1.18 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | tetrahydrofuran | 9 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | Ethyl 5-(tert-butoxycarbonylamino)-6-iodo-4-methylpyridine-2-carboxylate | 1.11 g | C(C)(C)(C)OC(=O)NC=1C(=CC(=NC1I)C(=O)OCC)C | C14H19IN2O4
